US07041696B2
Preparation of 2,6-dimethyl-benzoic acid 3-amino-4-tert-butoxycarbonyl-2-oxo-butyl ester (111):
2,6-Dimethyl-benzoic acid 3-benzyloxycarbonylamino-4-tert-butoxycarbonyl-2-oxo-butyl ester, 110, (11.3 g, 24.1 mmol) is dissolved in a solution of EtOH (400 mL) and 1 N HCl (29 mL), treated with 10% Pd/C (500 mg) and stirred under a hydrogen atmosphere for 4 h. The solution is filtered and concentrated to yield 7.6 g of the desired product as an HCl salt that was used without further purification.

reactant | 2,6-Dimethyl-benzoic acid 3-benzyloxycarbonylamino-4-tert-butoxycarbonyl-2-oxo-butyl ester | C(C1=CC=CC=C1)OC(=O)NC(C(COC(C1=C(C=CC=C1C)C)=O)=O)CC(=O)OC(C)(C)C | C26H31NO7
solvent | EtOH | 400 mL | CCO | C2H6O
solvent | HCl | 1 N, 29 mL | Cl | ClH
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 2,6-dimethyl-benzoic acid 3-amino-4-tert-butoxycarbonyl-2-oxo-butyl ester | 7.6 g | NC(C(COC(C1=C(C=CC=C1C)C)=O)=O)CC(=O)OC(C)(C)C | C18H25NO5
